US07049310B2
a) Methyl 1-methyl-1H-indole-3-carboxylate
NaH (60% dispersion in mineral oil, 8.56 g, 214.0 mmole) was added portionwise, allowing for gas evolution, to a solution of methyl 1H-indole-3-carboxylate (25.00 g, 142.7 mmole) in DMF (350 mL) at 0° C. When the NaH addition was complete, methyl iodide (44.4 mL, 713.5 mmole) was added at 0° C. The reaction was stirred at 0° C. for 15 minutes then at RT overnight. The reaction was diluted with water and extracted with ethyl acetate. The combined extracts were dried over K2CO3 and concentrated to afford the title compound (26.00 g, 96%) as an orange solid: MS (ES) m/e 190 (M+H)+.

reactant | NaH | 214.0 mmole, 8.56 g | [H-].[Na+]
reactant | methyl 1H-indole-3-carboxylate | 142.7 mmole, 25.00 g | N1C=C(C2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | methyl iodide | 713.5 mmole, 44.4 mL | CI | CH3I
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | Methyl 1-methyl-1H-indole-3-carboxylate | 26.00 g, 96% | CN1C=C(C2=CC=CC=C12)C(=O)OC | C11H11NO2
